US07417040B2
To a stirred mixture of 4-Bromo-2-methyl-benzonitrile (5.00 g, 25.5 mmol) in CCl4 (40 mL) under argon was added N-bromosuccinamide (5.00 g, 28.1 mmol) and a catalytic amount of benzoyl peroxide. This mixture was heated at 85° C. for 2 days and cooled to room temperature. The precipitate was filtered off and the cake was rinsed with CCl4 (2×10 mL). The filtrate was concentrated in vacuo to give 7.2 g crude 4-Bromo-2-bromomethyl-benzonitrile (quantitative yield) which was used without further purification.

reactant | 4-Bromo-2-methyl-benzonitrile | 25.5 mmol, 5.00 g | BrC1=CC(=C(C#N)C=C1)C | C8H6BrN
reactant | N-bromosuccinamide | 28.1 mmol, 5.00 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-2-bromomethyl-benzonitrile | 7.2 g, quantitative yield | BrC1=CC(=C(C#N)C=C1)CBr | C8H5Br2N
